US05064844
2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxaldehyde (1 g) was oxidised using chromium trioxide (26.67 g) in water (40 ml) and concentrated sulphuric acid (23 ml), made up to 100 ml. The product was extracted with ether and worked up in conventional manner to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxylic acid, m.p. 155°-157°.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxaldehyde | 1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)C=O | C10H4Cl2F3N3O
reactant | water | 40 ml | O | H2O
solvent | sulphuric acid | 23 ml | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 26.67 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxylic acid | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)C(=O)O | C10H4Cl2F3N3O2
